US05023334
Preparation of benzoic acid [1-(4-pyridinyl)ethylidene]hydrazide 1-oxide, Compound 48
A mixture of 5.48 gm (0.04 mole) of 4-acetylpyridine 1-oxide, 5.45 gm (0.04) of benzhydrazide and 100 ml of absolute ethanol is refluxed for a total of 4 hr and cooled. The reaction mixture is evaporated in vacuo to yield a solid which is crystallized from ethanol to yield 7.82 gm (77%) of the title compound having a melting point of 248.9° C. (decomp).

reactant | 4-acetylpyridine 1-oxide | 0.04 mole, 5.48 gm | C(C)(=O)C1=CC=[N+](C=C1)[O-] | C7H7NO2
reactant | benzhydrazide | 5.45 gm | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | benzoic acid [1-(4-pyridinyl)ethylidene]hydrazide 1-oxide | 7.82 gm, 77% | N1=CC=C(C=C1)C(C)=N[NH+](C(C1=CC=CC=C1)=O)[O-] | C14H13N3O2
